US07902220B2
a. 2-(2-Ethylbutylamino)ethanol
A mixture of 3-bromomethyl-pentane (6.0 g, 36.4 mmol) and ethanolamine (13 mL, 218 mmol) in ethanol (45 mL) was heated at 75° C. for 16 h. The reaction mixture was concentrated and the resulting residue was diluted with DCM (70 mL). The organic layer was partitioned with water (70 mL) and the aqueous layer extracted with DCM. Combined organic layers, dried over magnesium sulfate, filtered, and concentrated to give the title compound as an oil (4.90 g). 1H NMR (d6-DMSO, 400 MHz) δ (ppm): 3.44 (t, J=5.6 Hz, 2H), 2.54 (t, J=6.0 Hz, 2H), 2.40 (d, J=5.6 Hz, 2H), 1.31-1.25 (m, 5H), 0.83 (t, J=6.8 Hz, 6H).

reactant | 3-bromomethyl-pentane | 36.4 mmol, 6.0 g | BrCC(CC)CC | C6H13Br
reactant | ethanolamine | 218 mmol, 13 mL | C(O)CN | C2H7NO
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 2-(2-Ethylbutylamino)ethanol | 4.90 g | C(C)C(CNCCO)CC | C8H19NO
